US06861551B2
9-Cycloheptadecenone (Civetone)
2-Methoxycarbonyl-9-cycloheptadecenone (92 mg, 0.30 mmol) was dissolved in a mixed solvent of 5% aqueous NaOH/ethanol/THF (2.5:5.0:2.5, vol./vol./vol.) and the solution was refluxed at 80° C. for 5 hours. After cooling to 0° C., the reaction solution was rendered slightly acidic using 10% sulfuric acid aqueous solution and the whole was further refluxed for 10 minutes. After the evaporation of the solvent under reduced pressure, the residue was extracted with ether. The organic layer was washed with saturated sodium hydrogen carbonate aqueous solution, water, and saturated brine, and then dried over anhydrous sodium sulfate. After the evaporation of the solvent under reduced pressure, the crude product was purified by silica gel chromatography (hexane/ethyl acetate=40/1) to obtain the aimed product (71 mg, 95%)

reactant | 2-Methoxycarbonyl-9-cycloheptadecenone | 0.30 mmol, 92 mg | COC(=O)C1C(CCCCCCCC=CCCCCCC1)=O | C19H32O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | NaOH ethanol THF | [OH-].[Na+].C(C)O.C1CCOC1
product | 9-Cycloheptadecenone | 71 mg, 95% | C1(CCCCCCCC=CCCCCCCC1)=O | C17H30O
